US07727985B2
Suspended 236 mg of 6-chloro-7-(4-methyl-piperazin-1-yl)-8-nitro-9H-β-carboline in 100 ml of methanol and added 10% Pd/C(48 mg) under argon. The flask was flushed with hydrogen (3×) and the reaction mixture was stirred under a hydrogen atmosphere at RT overnight. The reaction mixture was filtered and Pd/C was removed using a pad of celite. The reaction mixture was evaporated to remove solvent and purified by flash chromatography to give 119 mg (55% yield) of the desired 6-chloro-7-(4-methyl-piperazin-1-yl)-8-amino-9H-β-carboline.

reactant | 6-chloro-7-(4-methyl-piperazin-1-yl)-8-nitro-9H-β-carboline | 236 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1N1CCN(CC1)C)[N+](=O)[O-] | C16H16ClN5O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 48 mg | [Pd] | Pd
product | 6-chloro-7-(4-methyl-piperazin-1-yl)-8-amino-9H-β-carboline | 119 mg, 55% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1N1CCN(CC1)C)N | C16H18ClN5
